US08835634B2
To a solution of 3.6 g (18 mM) of N-(2,2-difluoroethyl)-2-nitroaniline in 25 ml of methanol, were added 470 mg of palladium on carbon at 5%. The reaction mixture was stirred for 3 h at room temperature under hydrogen atmosphere, at room pressure and room temperature. The catalyst was filtrated on Celite and the filtrate was evaporated under vacuum to give 3 g of N-(2,2-difluoroethyl)benzene-1,2-diamine as an oil. Yield: 97.5%.

reactant | N-(2,2-difluoroethyl)-2-nitroaniline | 18 mM, 3.6 g | FC(CNC1=C(C=CC=C1)[N+](=O)[O-])F | C8H8F2N2O2
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium on carbon | 470 mg | [Pd] | Pd
product | N-(2,2-difluoroethyl)benzene-1,2-diamine | 3 g, Yield: 97.5% | FC(CNC=1C(=CC=CC1)N)F | C8H10F2N2
